data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_186524_0,[C:1]1([H:8])([H:9])[C:3](=[O:7])[C:5]1([C:4]([C:2]([H:11])([H:12])[H:13])=[O:6])[H:10]>>[C:1]1([H:8])([H:9])[C:3](=[O:7])[O:6][C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]1[H:10],16.089727500004614
MR_24437_0,[C:1]([N:3]([N:4]([H:7])[H:8])/[N:5]=[N:6]/[C:2]([H:12])([H:13])[H:14])([H:9])([H:10])[H:11]>>[C:1]([N:6]([C:2]([H:12])([H:13])[H:14])/[N:5]=[N:3]\[N:4]([H:7])[H:8])([H:9])([H:10])[H:11],61.26721750001266
MR_300964_2,[C:1]([C:2]([N:5]([H:13])[H:14])([O:7][H:10])[H:12])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([O:6][H:9])[H:11]>>[C:1](/[C:2](=[N:5]/[H:14])[H:12])([C:4]([C:3]([H:15])([H:16])[H:17])([O:7][H:10])[O:8][H:13])([O:6][H:9])[H:11],40.34009250002242
MR_168962_2,[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:4](/[C:3]([H:14])([H:15])[H:16])[O:7]/[C:5](=[N:6]\[H:9])[H:10])[H:8]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4](/[C:5](=[N:6]\[H:9])[H:10])=[O:7])[H:8],70.62951750002384
MR_252067_1,[C@@:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:6][H:10])=[O:7])([C:4](=[O:8])[H:11])[O:5][H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:3](/[O:6][H:10])[O:7][C:4](=[O:8])[H:11])[O:5][H:9],52.55061500001205
MR_17339_0,[C:1]([C:4](=[C:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[N:6]([H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[C:4]([C:5]([C:2]([H:12])([H:13])[H:17])([C:3]([H:14])([H:15])[H:16])[H:8])=[N:6]/[H:7])([H:9])([H:10])[H:11],64.51202000000642
MR_642538_0,[C:1]([O:5]/[C:2]([N:4]([H:11])[H:12])=[N:7]/[N:3]([H:9])[H:10])([O:6][H:8])([H:13])[H:14]>>[C:1]([O:6][H:8])([N:7]([C:2]([N:4]([H:11])[H:12])=[O:5])[N:3]([H:9])[H:10])([H:13])[H:14],43.497045000006125
MR_669523_1,[C:1]([N:2]([C:3]([N:4]([H:9])[H:10])=[O:7])[O:6][C:5](=[O:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:2]1[C:5]([O:8][C:3]([N:4]([H:9])[H:10])=[O:7])([H:11])[O:6]1)([H:12])([H:13])[H:14],60.39122750001283
MR_481416_2,[C:1]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])([C:3]([N:5]([H:12])[H:13])=[O:8])([N:4]([H:10])[H:11])[O:7][H:9]>>[C:1]([C:3]([C:2]([N:6]([H:14])[H:15])([H:16])[H:17])([N:5]([H:12])[H:13])[O:8][H:9])([N:4]([H:10])[H:11])=[O:7],47.20556999998834
MR_684844_1,[C:1]([N:2]([N:4]([H:8])[H:9])[H:7])([C:3]([N:5]([H:10])[H:11])=[O:6])([H:12])[H:13]>>[C:1]([N:2]([N:4]([H:8])[H:9])[H:11])([C:3]([N:5]([H:7])[H:10])=[O:6])([H:12])[H:13],40.13427249997136
MR_384552_2,[C:1](/[C:3]([N:6]([H:13])[H:14])=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])([N:4]([H:11])[H:12])([N:5]([H:9])[H:10])[H:8]>>[C:1]1([N:5]([H:9])[H:10])([H:8])[C:3]([N:4]([H:11])[H:12])([N:6]([H:13])[H:14])[C:7]1([C:2]([H:16])([H:17])[H:18])[H:15],73.15018499997322
MR_485729_1,[C:1]([C:6]([C:2]([N:4]([H:11])[H:12])=[O:9])(/[C:3](=[N:5]/[H:13])[O:8][H:10])[H:17])([O:7][H:14])([H:15])[H:16]>>[C:1](/[C:6](=[C:3](\[N:5]([H:13])[H:14])[O:8][H:10])[H:17])([O:7][C:2]([N:4]([H:11])[H:12])=[O:9])([H:15])[H:16],59.41922999997004
MR_59509_2,[C:1](/[C:4]([C:2]([O:6][H:10])=[O:8])=[C:5](/[C:3]([O:7][H:11])=[O:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([O:6][H:10])=[O:8])[C:5]([H:12])=[C:3]([O:7][H:11])[O:9]1)([H:13])([H:14])[H:15],57.92138750000646
MR_460243_1,[C:1](\[N:2]([H:9])[H:10])(=[C:3](/[O:7][H:8])[H:11])[O:6][C:4](=[C:5]([H:13])[H:14])[H:12]>>[C:1]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[O:6][H:8],55.957940000005664
MR_303134_0,[C:1]([O:4][O:3][O:6][H:7])([O:5][C:2]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:1]([O:3][O:6][H:7])([O:4][O:5][C:2]([H:10])([H:11])[H:12])([H:8])[H:9],69.18752249999059
MR_515268_1,[C:1]([C@@:7]1([H:15])[C@@:5]([O:8][H:9])([H:13])[C@@:3]2([N:4]([H:11])[H:12])[N:2]([H:10])[C:6]21[H:14])([H:16])([H:17])[H:18]>>[C:1](/[C:7](=[C:6](\[N:2](/[C:3]([N:4]([H:11])[H:12])=[C:5](\[O:8][H:9])[H:13])[H:10])[H:14])[H:15])([H:16])([H:17])[H:18],51.129327499997856
MR_151608_1,[C:1]1([C:2]([H:13])([H:14])[H:15])([N:4]([N:5]([H:9])[H:10])[H:8])[C:3]([H:16])([H:18])[C:6]1([N:7]([H:11])[H:17])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:4]([N:5]([H:9])[H:10])[H:8])/[C:6](=[N:7]/[H:11])[H:12],59.02578750000032
MR_120474_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([C:6](=[O:7])[H:9])[C:2]([C:5]([H:15])([H:16])[H:17])([H:8])[C:3]1([H:10])[H:11]>>[C:1](=[C:2](\[C:5]([H:15])([H:16])[H:17])[H:8])(\[C:3]([C:6](=[O:7])[H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14],72.49695749998168
MR_705195_0,[C:1]([C@:3]12[N:2]([H:10])[C@@:6]1([H:14])[C@:5]([O:8][H:9])([H:13])[C@:7]2([N:4]([H:11])[H:12])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:3]([N:2](/[C:6](=[C:5](\[O:8][H:9])[H:13])[H:14])[H:10])=[C:7](\[N:4]([H:11])[H:12])[H:15])([H:16])([H:17])[H:18],41.86931000004947
MR_17332_0,[C:1]([O:7][C:2]([C:3]([N:4]([H:8])[H:9])=[C:6]([H:15])[H:16])=[C:5]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([O:7][C:3]([C:2]([N:4]([H:8])[H:9])=[C:5]([H:13])[H:14])=[C:6]([H:15])[H:16])([H:10])([H:11])[H:12],61.57531999998383
